Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Necrotic liver with abscess
 
Major Surgical or Invasive Procedure:
___: 
1. Exploratory laparotomy and lysis of adhesions.
2. Debridement of liver.
3. Ileocolectomy with ileocolonic anastomosis.

 
History of Present Illness:
Per Dr. ___ note as follows:
___ gentleman who
suffered a motor vehicle accident earlier this year.  He had
multiple injuries including injury to the liver.  He
subsequently developed liver necrosis and an abscess ___ that
area.  Some of his studies showed evidence of an enteric
fistula.  He has had persistent purulent drainage for the
past several months, and is now brought ___ for surgical
drainage and exploration with the possibility of bowel
resection.

 
Past Medical History:
MVC with liver lacs leading to necrotic liver lesion

PSH:
Exploratory laparotomy, washout of hemoperitoneum, debridement 
of laceration of the liver, ileocecectomy, ileocolostomy.
s/p Left ankle ORIF
s/p removal of adenoids
___:
1. Exploratory laparotomy and lysis of adhesions.
2. Debridement of liver.
3. Ileocolectomy with ileocolonic anastomosis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.8, 116, 125/65, 15, 99% 3L
General: NAD
CV: sinus tachycardia, reg rhythm
Pulm: CTA bilaterally
Abd: Soft, non-distended, large midline incision, dressing C/D/I
Extr:2+ pulses bilaterally
 
Pertinent Results:
___ Hct-34.2*
___ WBC-4.1 RBC-3.39* Hgb-9.4* Hct-29.8* MCV-88 MCH-27.6 
MCHC-31.4 RDW-15.5 Plt ___
___ ___ PTT-36.8* ___
___ Glucose-118* UreaN-5* Creat-0.7 Na-135 K-4.5 Cl-99 
HCO3-28 AnGap-13
___ Glucose-100 UreaN-2* Creat-0.4* Na-137 K-4.2 Cl-102 
HCO3-30 AnGap-9
___ ALT-9 AST-14 AlkPhos-90 TotBili-0.2
___ Calcium-7.8* Phos-3.2 Mg-2.2
___ Albumin-2.3*
.
___ 10:27 am
      TISSUE      NECROTIC LIVER. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      TISSUE (Preliminary): 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT ___ this culture.. 
      GRAM POSITIVE RODS.    SPARSE GROWTH. 
         CORYNEFORM BACILLI, UNABLE TO IDENTIFY FURTHER. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
         Susceptibility testing requested by ___. ___ ___ 
___. 
      LACTOBACILLUS SPECIES.    RARE GROWTH OF TWO COLONIAL 
MORPHOLOGIES. 
         Susceptibility testing requested by ___. ___ ___ 
___. 

   ANAEROBIC CULTURE (Final ___: 
      PREVOTELLA SPECIES.    SPARSE GROWTH.  OF TWO COLONIAL 
MORPHOLOGIES. 
         BETA LACTAMASE POSITIVE. 
         IDENTIFICATION PERFORMED ON CULTURE # ___ 
___. 
      PREVOTELLA SPECIES.    SPARSE GROWTH.  THIRD MORPHOLOGY. 
         BETA LACTAMASE POSITIVE. 

 
Brief Hospital Course:
On ___, he underwent exploratory laparotomy, lysis of 
adhesions, debridement of liver and ileocolectomy with 
ileocolonic anastomosis for necrotic liver and abscess. A JP 
drain was placed.  Surgeon was Dr. ___. Postop, he did 
well. Pain was controlled with a dilaudid PCA. Vital signs 
remained stable. Vancomycin, Flagyl and Ciprofloxacin were 
started postop.  JP drain output was brown-red initially 
averaged 200cc which decreased to 40cc. 

He was started on sips on postop day 2. Diet was advanced to 
clears on postop day 6 which he tolerated. KUB demonstrated 
prominent gas distended loops of colon along the descending and 
sigmoid colon. There was no evidence of perforation or 
obstruction of anastomosis. He passed flatus and diet was 
advanced to regular food on postop day 7. 

On postop day 7, meds were switched to the oral route. Pt was 
seen by Infectious disease team which recommened patient switch 
antibiotics to Levofloxacin and Flagyl for four weeks. After 
four weeks patient will follow up with Dr. ___ attending, 
___ clinic on ___. Prior to this visit, patient should 
obtain CT abdomen and pelvis with contrast.

On postop day 9, pt's PICC was taken out. Patient was 
discharged. Patient was asked if he felt comfortable taking care 
of the drain himself, which he did. Therefore ___ services were 
not needed. Pt was instructed to call Dr. ___ office to 
follow up ___ 2 weeks time. Patient's JP drain will remain ___ 
place until that time. Patient should record drain output until 
this follow-up visit with Dr. ___.

TRANSITIONAL ISSUES:
====================
- F/u with Dr. ___ surgeon, ___ 2 weeks
- F/u with Dr. ___ attending, ___ 4 weeks after CT of 
abdomen and pelvis with contrast
- Continue antibiotics for four weeks
- Monitor JP drain output until f/u appt with Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
2. Calcium Carbonate 500 mg PO TID 
3. Vitamin D 400 UNIT PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Milk of Magnesia 30 mL PO PRN constipation 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Acetaminophen 1000 mg PO TID 
3. Senna 1 TAB PO BID 
RX *sennosides [senna] 8.6 mg 1 (One) tablet by mouth twice 
daily Disp #*60 Tablet Refills:*0
4. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 (One) tablet(s) by mouth 
every eight hours Disp #*90 Tablet Refills:*0
5. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 (One) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
6. Ibuprofen 600 mg PO Q6H 
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
three hours Disp #*100 Tablet Refills:*0
8. Milk of Magnesia 30 mL PO PRN constipation 
9. Calcium Carbonate 500 mg PO TID 
10. Multivitamins 1 TAB PO DAILY 
11. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Necrotic liver with abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please empty and record JP drain output daily.

Please call Dr. ___ office ___ if you have 
any questions regarding the drain or if you have any of the 
following: temperature of 101 or greater, chills, nausea, 
vomiting, increased abdominal pain, abdominal distension, 
incision redness/bleeding/drainage, constipation or diarrhea
-you may shower with soap and water, rinse, pat dry. Do not 
apply powder/lotion/ointment to incisions
-no driving if taking pain medication

 
Followup Instructions:
___